US08445684B2
Into a 100 mL round-bottom flask was placed under N2 a solution of 2-phenylethanol (110 mg, 0.90 mmol) in tetrahydrofuran (10 mL). Sodium hydride (26 mg, 1.08 mmol, 1.2 equiv.) was added with ice cooling. The mixture was stirred for 2 h at 25° C., then 3-iodobenzyl bromide (320 mg, 1.08 mmol, 1.2 equiv.) and n-Bu4NBr (30 mg, 0.09 mmol, 0.10 equiv.) were added. The resulting solution was stirred for 20 h at 25° C. The reaction progress was monitored by TLC (SiO2, EtOAc/petroleum ether 1:5). The reaction was quenched by the addition of saturated aqueous NH4Cl solution. The resulting solution was extracted with EtOAc, and the organic layers were combined, dried over Na2SO4, and concentrated under vacuum. The residue was chromatographed on silica gel with EtOAc/petroleum ether 1:20 to obtain 300 mg (99%) of 1-iodo-3-(phenethoxymethyl)benzene as a yellow oil.

reactant | 2-phenylethanol | 0.90 mmol, 110 mg | C1(=CC=CC=C1)CCO | C8H10O
reactant | Sodium hydride | 1.08 mmol, 26 mg, 1.2 equiv. | [H-].[Na+]
reactant | 3-iodobenzyl bromide | 1.08 mmol, 320 mg, 1.2 equiv. | IC=1C=C(CBr)C=CC1 | C7H6BrI
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | n-Bu4NBr | 0.09 mmol, 30 mg, 0.10 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 1-iodo-3-(phenethoxymethyl)benzene | 300 mg, 99% | IC1=CC(=CC=C1)COCCC1=CC=CC=C1 | C15H15IO
